US09085555B2
A. (2S,3S,4S)-4-fluoro-3-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
To a solution of (2S,3S,4S)-4-fluoro-3-hydroxy-pyrrolidine-1,2-dicarboxylic acid dibenzyl ester (390 mg, 1.04 mmol) in MeOH (10 mL) was added Pd/C 10% (39 mg). The reaction was placed under hydrogen atmosphere and stirred 2 h then was filtered over glass-fiber and rinsed with water. After concentration, the residue was dissolved in THF/Water 2/1 (30 mL), aqueous NaOH (1N, 2.09 mL, 2.09 mmol) and Boc anhydride (456 mg, 2.09 mmol) were added and the reaction mixture was stirred 16 h at RT. THF was removed under reduced pressure and the aqueous layer was extracted with Et2O (×2), acidified by addition of KHSO4 (10% in water) and extracted with EtOAc (×2). The combined EtOAc extracts were dried (Na2SO4), filtered and concentrated. The material thus obtained was used in the next step without further purification.

reactant | (2S,3S,4S)-4-fluoro-3-hydroxy-pyrrolidine-1,2-dicarboxylic acid dibenzyl ester | 1.04 mmol, 390 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)O)C(=O)OCC1=CC=CC=C1 | C20H20FNO5
reactant | NaOH | 2.09 mmol, 1N, 2.09 mL | [OH-].[Na+]
reactant | Boc anhydride | 2.09 mmol, 456 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 39 mg | [Pd] | Pd
product | (2S,3S,4S)-4-fluoro-3-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H]([C@H](C1)F)O)C(=O)O | C10H16FNO5
